US07790724B2
d) 4-Cyano-1H-imidazole-2-carboxylic acid [5-acetyl-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide
The title compound was prepared by the procedure of Example 11, step (g) using 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [5-acetyl-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide (as prepared in the previous step, 200 mg, 0.406 mmol). Silica gel chromatography (5-15% EtOAc/DCM) afforded the title compound (134 mg, 91%) as a white solid. 1H-NMR (CDCl3; 400 MHz): δ 12.85 (s, 1H), 9.75 (s, 1H), 9.13 (d, 1H, J=1.8 Hz), 8.18 (d, 1H, J=2.5 Hz), 7.75 (dd, 1H, J=8.1, 1.8 Hz), 7.32 (d, 1H, J=8.1 Hz), 5.86 (m, 1H), 2.67 (s, 3H), 2.28-2.35 (m, 2H), 2.08-2.19 (m, 2H), 1.62 (t, 2H, J=6.3 Hz), 1.13 (s, 6H). Mass spectrum (ESI, m/z): Calcd. for C21H22N4O2, 363.2 (M+H), found 363.2.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [5-acetyl-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide | C(C)(=O)C=1C=CC(=C(C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CCC(CC1)(C)C | C27H36N4O3Si
solvent | EtOAc DCM | CCOC(=O)C.C(Cl)Cl
product | 4-Cyano-1H-imidazole-2-carboxylic acid [5-acetyl-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide | 134 mg, 91% | C(C)(=O)C=1C=CC(=C(C1)NC(=O)C=1NC=C(N1)C#N)C1=CCC(CC1)(C)C | C21H22N4O2
